US06528525B1
(f) Ethyl 3-[4-(2-hydroxyethoxy)phenyl]-2-(4-isopropylphenoxy)propionate
In a similar manner to that described in Reference example 3(f), a reaction was carried out using ethyl 2-(4-isopropylphenoxy)-3-[4-[2-(tetrahydropyran-2-yloxy)ethoxy]phenyl]propionate (20.6 g), which is the product of Reference example 5(e), and p-toluenesulfonic acid monohydrate (7.85 g) and the reaction mixture was treated to afford the desired compound (16.2 g) as a syrup.

reactant | ethyl 2-(4-isopropylphenoxy)-3-[4-[2-(tetrahydropyran-2-yloxy)ethoxy]phenyl]propionate | 20.6 g | C(C)(C)C1=CC=C(OC(C(=O)OCC)CC2=CC=C(C=C2)OCCOC2OCCCC2)C=C1 | C27H36O6
reactant | p-toluenesulfonic acid monohydrate | 7.85 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | Ethyl 3-[4-(2-hydroxyethoxy)phenyl]-2-(4-isopropylphenoxy)propionate | 16.2 g | OCCOC1=CC=C(C=C1)CC(C(=O)OCC)OC1=CC=C(C=C1)C(C)C | C22H28O5
